US05552412
cis-5-(6-Methoxy-2-phenyl-1,2,3,4-tetrahydronaphthalen-1 -yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine:
Pd(OH)2 (20% 77 mg) was flame dried under vacuum and was added to a solution of 5-(6-methoxy-2-phenyl-3,4-dihydronaphthalen-1-yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine (286.4 mg, 0.6714 mmol) in acetic acid (50 mL). The mixture was hydrogenated on a Parr shaker at 50 psi and at 50° C. for 16 h. The catalyst was filtered off with the aid of celite and the acetic acid was removed in vacuo. 1H NMR indicated that the reaction was incomplete and the residue was resubjected to the reaction conditions (50 psi and 60° C.) for an additional 6 h. The catalyst was removed via filtration through celite and the solvent was removed in vacuo. Radial chromatography (solvent gradient, CH2Cl2 to 10% MeOH in CH2Cl2) provided the desired material (207 mg, 72%). 1H NMR (250 MHz, CDCl3): δ 7.19 (m, 4H), 6.84 (m, 3H), 6.75 (d, J=2.4 Hz, 1H), 6.68 (dd, J=2.4, 8.4 Hz, 1H), 6.59 (dd, J=2.4, 8.4 Hz, 1H), 6.40 (d, J=8.4 Hz, 1H), 4.35 (t, J=5.7 Hz, 2H), 4.21 (d, J=4.8 Hz, 1H), 3.82 (s, 3H), 3.38 (m, 1H), 3.06 (m, 2H), 2.90 (t, J=5.7 H 2.69 (m, 4H), 2.11 (m, 2H), 1.84 (m, 4H).

reactant | 5-(6-methoxy-2-phenyl-3,4-dihydronaphthalen-1-yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine | 0.6714 mmol, 286.4 mg | COC=1C=C2CCC(=C(C2=CC1)C=1C=CC(=NC1)OCCN1CCCC1)C1=CC=CC=C1 | C28H30N2O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Pd(OH)2 | 77 mg | [OH-].[OH-].[Pd+2]
product | cis-5-(6-Methoxy-2-phenyl-1,2,3,4-tetrahydronaphthalen-1 -yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine | 207 mg, 72% | COC=1C=C2CC[C@@H]([C@@H](C2=CC1)C=1C=CC(=NC1)OCCN1CCCC1)C1=CC=CC=C1 | C28H32N2O2
